US08304419B2
A solution of 4-chloro-2-methyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole (1.78 g, 7.5 mmol) and methanesulfonic acid (18.5 mL, 285 mmol) in chloroform (39 mL) was stirred at RT for 1 h. The reaction mixture was poured into ice (˜70 g) and the solution was neutralized by addition of 5N NaOH until the pH was 10. The solution was extracted with methyl tert-butyl ether (2×60 mL) and then with n-butanol (3×40 mL). The combined n-butanol extracts were washed with brine, concentrated, and dried in vacuo to provide crude (4-chloro-2-methyl-1H-imidazol-5-yl)methanol as a brown solid. A solution of this solid and manganese dioxide (2.0 g, 23.0 mmol) in CH2Cl2 (12 mL) and 1,4-dioxane (6 mL) was heated under reflux for 6 h. The reaction mixture was cooled to RT, filtered through Celite, which was washed thoroughly with CH2Cl2. The filtrate was concentrated and dried to provide crude 4-chloro-2-methyl-1H-imidazole-5-carbaldehyde as a yellow solid (0.308 g, 28%), which was used without further purification.

reactant | 4-chloro-2-methyl-5-{[(phenylmethyl)oxy]methyl}-1H-imidazole | 7.5 mmol, 1.78 g | ClC=1N=C(NC1COCC1=CC=CC=C1)C | C12H13ClN2O
reactant | methanesulfonic acid | 285 mmol, 18.5 mL | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | chloroform | 39 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-chloro-2-methyl-1H-imidazol-5-yl)methanol | ClC=1N=C(NC1CO)C | C5H7ClN2O
